US06635657B1
E. N-(5-Chloropyridin-2-yl)-2-(4-oxopiperidin-1-ylcarbonyl)aminobenzamide
A solution of N-(5-chloropyridin-2-yl)-2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylcarbonyl)aminobenzamide (120 mg, 0.289 mmol) in dioxane (1 mL) and water (0.25 mL) was treated with 12 N HCl (0.25 mL). After 1.5 h, the mixture was poured into EtOAc and water. The organic layer was washed with satd sodium bicarbonate (2×), brine, dried with sodium sulfate, and concentrated yielding 100 mg of the title compound; which was used without further purification.

reactant | N-(5-chloropyridin-2-yl)-2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylcarbonyl)aminobenzamide | 0.289 mmol, 120 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)N1CCC2(OCCO2)CC1)=O | C20H21ClN4O4
reactant | HCl | 12 N, 0.25 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.25 mL | O | H2O
product | N-(5-Chloropyridin-2-yl)-2-(4-oxopiperidin-1-ylcarbonyl)aminobenzamide | 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)N1CCC(CC1)=O)=O | C18H17ClN4O3
